US07799820B2
Synthesis of 4-(methylsulfonyl)phenol
In a water bath, methyl iodide (18.5 ml) and potassium carbonate (28.7 g) were added to an acetone (250 ml) solution of 4-hydroxythiophenol (25 g), and stirred at room temperature for 5 hours. The salt was removed by filtration, the solvent was evaporated away under reduced pressure, diethyl ether was added, and extracted with aqueous 2 N sodium hydroxide solution. The obtained aqueous layer was made acidic with aqueous 6 N hydrochloric acid solution, extracted with diethyl ether, and the organic layer was washed with aqueous saturated sodium chloride solution. After dried, the solvent was evaporated away under reduced pressure to obtain 4-(methylsulfanyl)phenol (27.3 g) as a pale yellow solid. In a water bath, 30% hydrogen peroxide water (67 ml) was gradually and added dropwise to an acetic acid (130 ml) solution of 4-(methylsulfanyl)phenol (27.3 g). After the addition, this was gradually heated up to 100° C., and stirred for 1 hour. The reaction solution was restored to room temperature, and neutralized with saturated sodium bicarbonate water. This was extracted with ethyl acetate, and washed with saturated sodium bicarbonate water and saturated saline water. After dried, the solvent was evaporated away to obtain the entitled compound as a pale yellow solid.

reactant | hydrogen peroxide water | 67 ml | O.OO
reactant | 4-(methylsulfanyl)phenol | 27.3 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
product | 4-(methylsulfonyl)phenol | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
